US08686022B2
7-hydroxymethyl-1-methyl-1H-indole-2-carboxylic acid
Under argon a solution of 4 g (1-methyl-1H-indol-7-yl)-methanol in 80 ml diethyl ether is added dropwise to 76 ml of a 1.6 M solution of n-butyllithium in hexane at 0° C., while the temperature does not exceed 35° C. Then the mixture is stirred for another 12 hours at ambient temperature and the solution thus obtained is poured onto 30 g of crushed dry ice in 100 ml diethyl ether. The mixture is stirred until all the dry ice has dissolved and the reaction is then stopped by the addition of 40 ml of water. The phases are separated and the organic phase is extracted twice with 20 ml of water. The combined aqueous phases are suction filtered and the filtrate is adjusted to pH 2 with concentrated hydrochloric acid. The solid precipitated is suction filtered and dried in vacuo.

reactant | (1-methyl-1H-indol-7-yl)-methanol | 4 g | CN1C=CC2=CC=CC(=C12)CO | C10H11NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | dry ice | 30 g | C(=O)=O | CO2
reactant | water | 40 ml | O | H2O
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 7-hydroxymethyl-1-methyl-1H-indole-2-carboxylic acid | OCC=1C=CC=C2C=C(N(C12)C)C(=O)O | C11H11NO3
